US07405300B2
Phosphorous oxychloride (50 mL, 538 mmol) is added slowly to a solution of DMF (50 mL) in dichloromethane (50 mL) maintaining the temperature at 5° C. After 30 min, a solution of 1-phenyl-1H-indol-2-one (25 g, 120 mmol) and pyridine (25 mL, 309 mmol) in chloroform (125 mL) is added and the reaction is stirred 48 hr at room temperature. The reaction is poured into ice water (600 mL) and the aqueous layer is separated and extracted with chloroform (3×200 mL). The combined organic layer and extracts is dried, filtered and concentrated. The solid residue is crystallized from ethanol to afford 2-chloro-1-phenyl-1H-indole-3-carboxaldehyde (12.0 g, 39.25% yield) as an orange solid. NMR (CDCl3) 10.21 (1H, s), 8.37 (1H, d), 7.60 (3H, m), 7.41 (2H, m), 7.38 (1H, t), 7.28 (1H, m), 7.10 (1H, d). A second crop (7.5 g, 24.5% yield) is obtained by concentration of the filtrate and chromatography the residue eluting with dichloromethane.

reactant | Phosphorous oxychloride | 538 mmol, 50 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
reactant | 1-phenyl-1H-indol-2-one | 120 mmol, 25 g | C1(=CC=CC=C1)N1C(CC2=CC=CC=C12)=O | C14H11NO
reactant | pyridine | 309 mmol, 25 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | chloroform | 125 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-chloro-1-phenyl-1H-indole-3-carboxaldehyde | 12.0 g, 39.25% yield | ClC=1N(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C15H10ClNO
